US04639457
To a solution of 2.15 grams (0.0075 mole) of 9-bromo-11-oxo-benzo[5,6]cyclohepta-[1,2-b]pyridine in 40 milliliters of chloroform was added 1.78 grams (0.0082 mole) of m-chloroperbenzoic acid and the resulting solution was stirred at room temperature for about 24 hours. At this time, an additional 0.9 gram of m-chloroperbenzoic acid oxidant was added and the stirring continued for 5 hours, after which time, yet another 0.45 gram of the oxidant was added and the stirring continued overnight at room temperature. The resulting mixture was washed twice with 10 percent aqueous sodium hydroxide and twice with water and dried over magnesium sulfate. The drying agent was removed by filtration and the filtrate concentrated at reduced pressure to obtain a residue. The latter was triturated with acetonitrile to obtain 1.37 grams of 9-bromo-11-oxo-benzo[5,6]cyclohepta[1,2-b]pyridine N-oxide intermediate.

reactant | 9-bromo-11-oxo-benzo[5,6]cyclohepta-[1,2-b]pyridine | 0.0075 mole, 2.15 grams | BrC1=CC2=C(C=CC=3C(=NC=CC3)C2=O)C=C1 | C14H8BrNO
reactant | m-chloroperbenzoic acid | 0.0082 mole, 1.78 grams | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | m-chloroperbenzoic acid | 0.9 gram | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 40 milliliters | C(Cl)(Cl)Cl | CHCl3
product | 9-bromo-11-oxo-benzo[5,6]cyclohepta[1,2-b]pyridine N-oxide | 1.37 grams | BrC1=CC2=C(C=CC=3C(=[N+](C=CC3)[O-])C2=O)C=C1 | C14H8BrNO2
